2137-04-19 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Amoxicillin
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-19**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 120 (120 - 126) bpm
   BP: 138/94(105) {135/86(99) - 138/94(105)} mmHg
   RR: 35 (29 - 35) insp/min
   SpO2: 100%
             Total In:
             22 mL
   PO:
             TF:
   IVF:
   22 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   R>L, Diminished: L>R, esp at base, Rhonchorous: R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   79yF with history of hypothyroidism, hypertension, DLBCL in remission,
   and bronchial stent in left mainstem bronchus (for compressive
   lymphadenopathy), recent Pseudomonal pneumonia and admission for FUO,
   now presenting with acute shortness of breath, found to have nearly
   complete collapse of the left hemithorax.
   #) Shortness of breath/hypoxia. Likely secondary to mucus plugging of
   left mainstem bronchus. Increased thick secretions concerning for
   pneumonia, especially in setting of recent Pseudomonal pneumonia.
   - Plan for bronchoscopy today with lavage for samples; may need to be
   intubated prior to procedure given poor respiratory reserve
   - Aggressive chest PT
   - Albuterol/ipratropium Nebs PRN, Xopenex and Mucomyst nebs
   - Continue ceftazidime for now, pending bronch/BAL today; will hold on
   other antibiotics
   #) Recent Pseudomonal pneumonia. Continue ceftazidime for now until
   other culture data available.
   #) C. diff infection. Continue PO vancomycin, to finish on [**4-21**].
   #) Fevers. Last admission without obvious etiology, despite extensive
   hematologic, oncologic, and infectious workups. Blood culture pending
   from [**Last Name (LF) **], [**First Name3 (LF) 124**] obtain urine culture (although urinalysis without obvious
   infection in ED).
   - Continue Tylenol, follow up blood cultures.
   #) Non-Hodgkins lymphoma. Currently in remission. Follow up with Dr.
   [**First Name (STitle) 2355**].
   #) Asthma. Continue Advair, albuterol/ipratropium PRN.
   #) Hypothyroidism. Continue levothyroxine.
   #) Hypertension. Continue diltiazem.
   #) F/E/N. IVF as above, monitor/replete electrolytes. NPO for now
   pending procedure.
   #) Prophylaxis. Heparin SubQ, bowel regimen.
   #) Communication. With patient and sons [**Name (NI) 6387**], [**Name (NI) 5113**], and [**Name (NI) 103**]. Son
   [**Name (NI) 6387**] phone number [**Telephone/Fax (1) 6388**]. Son [**Name (NI) 6387**] is HCP, form in chart.
   #) Access. PIV x 2.
   #) Code Status. Full code, confirmed with patient and family. ICU
   consent completed.
   #) Dispo. ICU for now, pending clinical improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-4-19**] 03:59 AM
   20 Gauge - [**2137-4-19**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-04-20 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2137-4-19**] 05:31 PM
   [**2137-4-19**]
   - Bronched, had an episode of hypotension from propofol requiring
   pressors.  still intubated until AM.
   - Discuss ABX with IP
   - Rebronch in AM to eval L lung collapse
   - received 2L NS o/n for hypotension (MAP 65)/tachycardia
   Allergies:
   Amoxicillin
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2137-4-19**] 02:05 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2137-4-19**] 05:36 PM
   Midazolam (Versed) - [**2137-4-19**] 05:40 PM
   Heparin Sodium (Prophylaxis) - [**2137-4-20**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-20**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 116 (94 - 127) bpm
   BP: 118/74(84) {50/30(35) - 132/90(96)} mmHg
   RR: 29 (6 - 48) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,332 mL
                                                                  2,067 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  2,302 mL
                                                                  2,067 mL
   Blood products:
   Total out:
                                                                  2,805 mL
                                                                    240 mL
   Urine:
                                                                  2,805 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -473 mL
                                                                  1,827 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 118
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: ///19/
   Ve: 5.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   136 K/uL
   7.4 g/dL
   69 mg/dL
   0.4 mg/dL
   19 mEq/L
   3.2 mEq/L
   6 mg/dL
   106 mEq/L
   138 mEq/L
   23.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2137-4-20**]  05:01 AM
   WBC
   4.1
   Hct
   23.1
   Plt
   136
   Cr
   0.4
   Glucose
   69
   Other labs: Mg++:1.6 mg/dL
   Imaging: CT scan:
   IMPRESSION:
   1. Near complete collapse of the left lung, with small foci of aerated
   lung
   predominantly within the left upper lobe. Scattered foci of
   hypoenhancement
   likely reflect associated areas of consolidation. There is an
   associated
   small to moderate left pleural effusion.
   2. Opacities filling the left mainstem bronchus which contains a stent,
   and
   may reflect mucoid impaction.
   3. Tiny right pleural effusion with associated atelectasis.
   4. Stable adenopathy.
   5. Stable compression fractures.
   Microbiology: GRAM STAIN (Final [**2137-4-19**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   BCx pending [**4-18**]
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   79yF with history of hypothyroidism, hypertension, DLBCL in remission,
   and bronchial stent in left mainstem bronchus (for compressive
   lymphadenopathy), recent Pseudomonal pneumonia and admission for FUO,
   now presenting with acute shortness of breath, found to have nearly
   complete collapse of the left hemithorax.
   #) Shortness of breath/hypoxia:  Most likely cause remains mucus plug
   of stent in L mainstem, as visualized on CT.  Low suspicion for
   infection.  Baseline asthma may also be contributing.  IP placed the
   stent oriniginally in [**2133**]
   - discuss with IP broncoscopy for mucus plug removal
   - may need to do broncoscopy over ET tube; discuss this option with IP
   - R sided positioning to improve air flow to good lung
   - continue aggressive chest PT
   - continue Advair with nebulizers PRN
   - continue ceftazidime for now given hx pseudomonas; will discuss this
   with IP and obtain culture data from bronch
   .
   #) history of  C. diff infection
   - continue PO vancomycin, to finish on [**4-21**].
   - contact precautions
   #) history of fevers:  Afebrile this admission.  No etiology of fevers
   found last admission.
   -monitor for fevers
   #) Non-Hodgkins lymphoma:  currently in remission.
   - follow up with Dr. [**First Name (STitle) 2355**].
   #) Hypothyroidism:  stable
   - continue levothyroxine.
   #) Hypertension
   - continue diltiazem.
   #) F/E/N. IVF as above, monitor/replete electrolytes. NPO for now
   pending procedure.
   #) Prophylaxis. Heparin SubQ, bowel regimen.
   #) Communication. With patient and sons [**Name (NI) 6387**], [**Name (NI) 5113**], and [**Name (NI) 103**]. Son
   [**Name (NI) 6387**] phone number [**Telephone/Fax (1) 6388**]. Son [**Name (NI) 6387**] is HCP, form in chart.
   #) Access. PIV x 2.
   #) Code Status. Full code, confirmed with patient and family. ICU
   consent completed.
   #) Dispo. ICU for now, pending clinical improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-4-19**] 03:59 AM
   20 Gauge - [**2137-4-19**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-04-20 18:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2137-4-19**] 05:31 PM
   [**2137-4-19**]
   - Bronched, had an episode of hypotension from propofol requiring
   pressors.  still intubated until AM.
   - received 2L NS o/n for hypotension (MAP 65)/tachycardia
   Allergies:
   Amoxicillin
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2137-4-19**] 02:05 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2137-4-19**] 05:36 PM
   Midazolam (Versed) - [**2137-4-19**] 05:40 PM
   Heparin Sodium (Prophylaxis) - [**2137-4-20**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-20**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 116 (94 - 127) bpm
   BP: 118/74(84) {50/30(35) - 132/90(96)} mmHg
   RR: 29 (6 - 48) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,332 mL
                                                                  2,067 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  2,302 mL
                                                                  2,067 mL
   Blood products:
   Total out:
                                                                  2,805 mL
                                                                    240 mL
   Urine:
                                                                  2,805 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -473 mL
                                                                  1,827 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 118
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: ///19/
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: normal s1/s2, no murmurs
   Respiratory / Chest:  rhonchorus breath sounds in bilaterally
   Skin:  Warm
   Neurologic: alert and oriented, conversant
   Labs / Radiology
   136 K/uL
   7.4 g/dL
   69 mg/dL
   0.4 mg/dL
   19 mEq/L
   3.2 mEq/L
   6 mg/dL
   106 mEq/L
   138 mEq/L
   23.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2137-4-20**]  05:01 AM
   WBC
   4.1
   Hct
   23.1
   Plt
   136
   Cr
   0.4
   Glucose
   69
   Other labs: Mg++:1.6 mg/dL
   Imaging: CT scan:
   IMPRESSION:
   1. Near complete collapse of the left lung, with small foci of aerated
   lung
   predominantly within the left upper lobe. Scattered foci of
   hypoenhancement
   likely reflect associated areas of consolidation. There is an
   associated
   small to moderate left pleural effusion.
   2. Opacities filling the left mainstem bronchus which contains a stent,
   and
   may reflect mucoid impaction.
   3. Tiny right pleural effusion with associated atelectasis.
   4. Stable adenopathy.
   5. Stable compression fractures.
   Microbiology: GRAM STAIN (Final [**2137-4-19**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   BCx pending [**4-18**]
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   79yF with history of hypothyroidism, hypertension, DLBCL in remission,
   and bronchial stent in left mainstem bronchus (for compressive
   lymphadenopathy), recent Pseudomonal pneumonia and admission for FUO,
   now presented with acute shortness of breath, found to have nearly
   complete collapse of the left hemithorax [**1-7**] mucus plugging and much
   improved s/p bronchoscopy.
   #) Shortness of breath/hypoxia: [**1-7**] mucus plug of stent in L mainstem,
   as visualized on CT and bronch.  Baseline asthma may also be
   contributing.  IP placed the stent oriniginally in [**2133**]. Remained
   intubated overnight [**1-7**] hypotensive episode from propofol during first
   bronch; extubated this AM post repeat bronch and breathing comfortably
   with nebs and mucolytics
   - s/p repeat bronchoscopy today: more mucus and purulent material
   removed: given purulence on repeat bronch and 4+ GNR in sputum,
   decision made to continue treatment with ceftaz for pseudomonas ( 2
   week course starting [**4-19**])
   - Continue mucolyitics
   - R sided positioning to improve air flow to good lung
   - continue aggressive chest PT
   - continue Advair with nebulizers standing
   # Hct drop: drop to 23 from 29 on recent discharge. Likely [**1-7**] fluid
   bolus given during propofol induced hypotensive episode.
   - transfuse 1 unit
   - recheck Hct in PM
   #) history of  C. diff infection
   - continue PO vancomycin, to finish on [**4-21**].
   - contact precautions
   #) Non-Hodgkins lymphoma:  currently in remission.
   - follow up with Dr. [**First Name (STitle) 2355**].
   #) Hypothyroidism:  stable
   - continue levothyroxine.
   #) Hypertension
   - continue diltiazem.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-4-19**] 03:59 AM
   20 Gauge - [**2137-4-19**] 04:00 AM
   Prophylaxis:
   DVT: Heparin SubQ, bowel regimen.
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: . With patient and sons [**Name (NI) 6387**], [**Name (NI) 5113**], and
   [**Name (NI) 103**]. Son [**Name (NI) 6387**] phone number [**Telephone/Fax (1) 6388**]. Son [**Name (NI) 6387**] is HCP, form
   in chart.
   Code status: code, confirmed with patient and family. ICU consent
   completed.
   Disposition: ICU for now, pending clinical improvement.

2137-04-21 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2137-4-20**] 01:10 PM
 INVASIVE VENTILATION - STOP [**2137-4-20**] 02:44 PM
 EKG - At [**2137-4-20**] 07:03 PM
   - given 2L NS for persistent tachycardia
   - repeat broncoscopy with more mucus and purulent material removed:
   - extubated
   - chest PT with mucolytics, doing well
   - Hct dropped in setting of fluid resuscitation, 1 unit pRBC given with
   good effect
   Allergies:
   Amoxicillin
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2137-4-20**] 11:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-4-20**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-21**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 109 (96 - 130) bpm
   BP: 110/62(74) {94/56(65) - 153/86(104)} mmHg
   RR: 24 (14 - 50) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,740 mL
                                                                     75 mL
   PO:
             TF:
   IVF:
                                                                  4,390 mL
                                                                     75 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,050 mL
                                                                  1,210 mL
   Urine:
                                                                  2,050 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,690 mL
                                                                 -1,135 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 91%
   ABG: ///17/
   Ve: 6 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: normal s1/s2, no murmurs
   Respiratory / Chest:  rhonchorus breath sounds  bilaterally
   Skin:  Warm
   Neurologic: alert and oriented, conversant
   Labs / Radiology
   155 K/uL
   10.3 g/dL
   76 mg/dL
   0.4 mg/dL
   17 mEq/L
   2.7 mEq/L
   6 mg/dL
   100 mEq/L
   134 mEq/L
   30.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2137-4-20**]  05:01 AM
                             [**2137-4-20**]  04:04 PM
                             [**2137-4-21**]  05:39 AM
   WBC
   4.1
   7.6
   Hct
   23.1
   30.8
   30.3
   Plt
   136
   155
   Cr
   0.4
   0.4
   Glucose
   69
   76
   Other labs: PT / PTT / INR:12.4/28.6/1.0, Ca++:7.9 mg/dL, Mg++:1.7
   mg/dL, PO4:2.1 mg/dL
   [**4-19**] BAL:  >100k pseudomonas
   [**4-20**] CXR:
   Endotracheal tube and left main stem bronchus stent remain in
   place. There has been further slight interval improvement in degree of
   aeration of the left lung, but areas of airspace opacity persist,
   potentially
   reflecting reexpansion edema in the setting of recent complete left
   lung
   collapse. Moderate left partially loculated pleural effusion and small
   right
   pleural effusion are unchanged. Questionable mild interstitial edema.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   79yF with history of hypothyroidism, hypertension, DLBCL in remission,
   and bronchial stent in left mainstem bronchus (for compressive
   lymphadenopathy), recent Pseudomonal pneumonia and admission for FUO,
   now presented with acute shortness of breath, found to have nearly
   complete collapse of the left hemithorax [**1-7**] mucus plugging and much
   improved s/p bronchoscopy.
   #) Shortness of breath/hypoxia: Secondary to mucus plug of stent in L
   mainstem, as visualized on admission CT and at  bronch.  Now s/p
   removal of mucous plug by IP who placed the stent oriniginally in
   [**2133**].  Lung appeared to re-expand [**4-19**] after broncoscopy, but she
   remained intubated because of hypotension, now s/p extubation
   yesterday.  Repeat broncoscopy yesterday with more purulent material.
   Now breathing comfortably with nebs and mucolytics.  Xray today  is
   improved but with persistent volume loss on the left.  Her current  SOB
   and hypoxia has likely contribution from this volume loss as well as
   baseline asthma.
   She still has pseudomonas in her sputum.  Given purulence at
   broncoscopy and the fact that this may have contributed to stent
   plugging, we are treating this with ceftazidime, to which the bacteria
   was sensitive from her last hospital stay.
   - continue ceftazidime single-[**Doctor Last Name **] treatment (day 1=[**4-19**], plan 2-week
   course to end [**5-2**])
   - f/u psuedomonas sensitivities
   - she may need long-term suppressive thearpy with inhaled
   aminoglycosides (will plan to discuss this with ID tomorrow)
   - continue mucolytics
   - continue standing nebulizers
   - start methylprednisolone 40 mg daily given likely reactive airway
   component
   - continue chest PT
   - out of bed to chair today
   #) Tachycardia:  yesterday she was somewhat responsive to fluid
   - fluid bolus PRN
   #) Hct drop: Hct bumped appropriately yesterday with 1 unit pRBC.
   Likely [**1-7**] fluid bolus given during propofol induced hypotensive
   episode.
   - monitor Hct
   #) history of  C. diff infection
   - continue PO vancomycin, scheduled to finish [**4-21**] but missed several
   doses, plan to continue until tomorrow
   - contact precautions
   #) Non-Hodgkins lymphoma:  currently in remission.
   - follow up with Dr. [**First Name (STitle) 2355**].
   #) Hypothyroidism:  stable
   - continue levothyroxine.
   #) Hypertension
   - continue diltiazem.
   ICU Care
   Nutrition: advance diet today
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-4-19**] 03:59 AM
   20 Gauge - [**2137-4-19**] 04:00 AM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition: ICU for now, may call out tomorrow

2137-04-22 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2137-4-22**] 12:53 AM
   - advanced diet
   - started solu-medrol for reactive airway disease
   - pan-sensitive pseudomonas in sputum
   - started inhaled tobra
   - ? need to get ID involved tomorrow for duration of therapy
   - gave 1 L NS for tachycardia with some improvement
   Allergies:
   Amoxicillin
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2137-4-22**] 02:00 AM
   Ceftazidime - [**2137-4-22**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-4-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-22**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 99 (97 - 129) bpm
   BP: 135/82(94) {98/56(66) - 155/91(105)} mmHg
   RR: 23 (20 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,311 mL
                                                                    707 mL
   PO:
                                                                  1,400 mL
             TF:
   IVF:
                                                                  1,911 mL
                                                                    707 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    335 mL
   Urine:
                                                                  2,370 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    941 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: 2L  Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: normal s1/s2, no murmurs
   Respiratory / Chest:  rhonchorus breath sounds  bilaterally
   Skin:  Warm
   Neurologic: alert and oriented, conversant
   Labs / Radiology
   160 K/uL
   10.1 g/dL
   191 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.9 mEq/L
   8 mg/dL
   105 mEq/L
   135 mEq/L
   31.5 %
   3.9 K/uL
        [image002.jpg]
                             [**2137-4-20**]  05:01 AM
                             [**2137-4-20**]  04:04 PM
                             [**2137-4-21**]  05:39 AM
                             [**2137-4-22**]  04:53 AM
   WBC
   4.1
   7.6
   3.9
   Hct
   23.1
   30.8
   30.3
   31.5
   Plt
   136
   155
   160
   Cr
   0.4
   0.4
   0.3
   Glucose
   69
   76
   191
   Other labs: PT / PTT / INR:12.4/28.6/1.0, Ca++:8.3 mg/dL, Mg++:1.7
   mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   79yF with history of hypothyroidism, hypertension, DLBCL in remission,
   and bronchial stent in left mainstem bronchus (for compressive
   lymphadenopathy), recent Pseudomonal pneumonia and admission for FUO,
   now presented with acute shortness of breath, found to have nearly
   complete collapse of the left hemithorax [**1-7**] mucus plugging and much
   improved s/p bronchoscopy.
   #) Shortness of breath/hypoxia: Secondary to mucus plug of stent in L
   mainstem, as visualized on admission CT and at  bronch.  Now s/p
   removal of mucous plug by IP who placed the stent oriniginally in
   [**2133**].  Lung appeared to re-expand [**4-19**] after broncoscopy, but she
   remained intubated because of hypotension, now s/p extubation
   yesterday.  Repeat broncoscopy yesterday with more purulent material.
   Now breathing comfortably with nebs and mucolytics.  Xray today  is
   improved but with persistent volume loss on the left.  Her current  SOB
   and hypoxia has likely contribution from this volume loss as well as
   baseline asthma.
   She still has pseudomonas in her sputum.  Given purulence at
   broncoscopy and the fact that this may have contributed to stent
   plugging, we are treating this with ceftazidime, to which the bacteria
   was sensitive from her last hospital stay.
   - continue ceftazidime single-[**Doctor Last Name **] treatment (day 1=[**4-19**], plan 2-week
   course to end [**5-2**])
   - f/u psuedomonas sensitivities
   - she may need long-term suppressive thearpy with inhaled
   aminoglycosides (will plan to discuss this with ID tomorrow)
   - continue mucolytics
   - continue standing nebulizers
   - start methylprednisolone 40 mg daily given likely reactive airway
   component
   - continue chest PT
   - out of bed to chair today
   #) Tachycardia:  yesterday she was somewhat responsive to fluid
   - fluid bolus PRN
   #) Hct drop: Hct bumped appropriately yesterday with 1 unit pRBC.
   Likely [**1-7**] fluid bolus given during propofol induced hypotensive
   episode.
   - monitor Hct
   #) history of  C. diff infection
   - continue PO vancomycin, scheduled to finish [**4-21**] but missed several
   doses, plan to continue until tomorrow
   - contact precautions
   #) Non-Hodgkins lymphoma:  currently in remission.
   - follow up with Dr. [**First Name (STitle) 2355**].
   #) Hypothyroidism:  stable
   - continue levothyroxine.
   #) Hypertension
   - continue diltiazem.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2137-4-22**] 12:53 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition :  call out to floor today